US05047540
(81) Preparation of 3-hexadecylthio-2-(5-methyl-1H-tetrazol-1-yl)propanol Vi1
A mixture of 2.90 g (4.5 mM) of 1-hexadecylthio-2-(5-methyl-1H-tetrazol-1-yl)-3-triphenylmethoxypropane and 170 mg (0.9 mM) of p-toluenesulfonic acid monohydrate in 60 ml of methanol-tetrahydrofuran (1:1) mixture is stirred at room temperature for overnight. The mixture was poured into ice-water containing 151 mg (1.8 mM) of sodium bicarbonate and the product is isolated by ethyl acetate extraction. The ethyl acetate layer is washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated. The residue is purified by column silica gel chromatography using toluene:ethyl acetate (4:1-1:1) mixture as an eluent and 1.46 g (81% yield) of the title compound Vi1 is obtained. mp. 77°-78° C.

reactant | 1-hexadecylthio-2-(5-methyl-1H-tetrazol-1-yl)-3-triphenylmethoxypropane | 4.5 mM, 2.90 g | C(CCCCCCCCCCCCCCC)SCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1N=NN=C1C | C40H56N4OS
reactant | p-toluenesulfonic acid monohydrate | 0.9 mM, 170 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol tetrahydrofuran | 60 ml | CO.O1CCCC1
product | 3-hexadecylthio-2-(5-methyl-1H-tetrazol-1-yl)propanol | 1.46 g, 81% yield | C(CCCCCCCCCCCCCCC)SCC(CO)N1N=NN=C1C | C21H42N4OS
